US03931235
3-(o-Fluorobenzylthio)-4-hydroxy-6-methyl-2-pyrone
4-Hydroxy-3-mercapto-6-methyl-2-pyrone (49.5 g., 0.313 mole) and o-fluorobenzyl chloride (45.3 g., 0.313 mole) were dissolved in pyridine (250 ml.). The temperature rose from 20° to 43°C. The solution was heated at 90°C. for two hours, cooled and poured over ice and concd. hydrochloric acid (500 ml.). This mixture was extracted with methylene chloride. The extract was dried (MgSO4) and evaporated to dryness, leaving an oily residue (80 g.) which is dissolved in hot benzene. Hexane was added to this hot benzene solution and an oil separated. The solution was decanted off. This was repeated until a solid separated. The mixture was cooled and filtered, giving 38.0 g. (46 percent) of the desired product. Recrystallization from benzene gave the pure product as a pale yellow solid, m.p. 123°-125°C.

reactant | 4-Hydroxy-3-mercapto-6-methyl-2-pyrone | 0.313 mole, 49.5 g | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
reactant | o-fluorobenzyl chloride | 0.313 mole, 45.3 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | hydrochloric acid | 500 ml | Cl | ClH
reactant | Hexane | CCCCCC | C6H14
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(o-Fluorobenzylthio)-4-hydroxy-6-methyl-2-pyrone | 46 percent | FC1=C(CSC=2C(OC(=CC2O)C)=O)C=CC=C1 | C13H11FO3S
